US06384028B1
1-tert-Butyldimethylsilyl-4(S)-(2H-1,2,3-triazol-4-yl)-2-azetidinone (0.3 g) was added to 6N HCl/EtOH (10 ml). The mixture was stirred for 1 hour, and then evaporated in vacuo. The crystalline solid was washed with diethyl ether to give 3(S)-(2H-1,2,3-triazol-4-yl)-β-alanine ethyl ester hydrochloride (0.25 g, 94.4%) as a white solid.

reactant | 1-tert-Butyldimethylsilyl-4(S)-(2H-1,2,3-triazol-4-yl)-2-azetidinone | 0.3 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C1=NNN=C1)=O | C11H20N4OSi
reactant | HCl EtOH | 6N, 10 ml | Cl.CCO
product | 3(S)-(2H-1,2,3-triazol-4-yl)-β-alanine ethyl ester hydrochloride | 0.25 g, 94.4% | Cl.C(C)OC(C[C@H](N)C1=NNN=C1)=O | InChI=1S/C7H12N4O2.ClH/c1-2-13-7(12)3-5(8)6-4-9-11-10-6;/h4-5H,2-3,8H2,1H3,(H,9,10,11);1H/t5-;/m0./s1
